US06291464B1
To a mixture of 1-benzyloxycarbonyl-4-nitrosohomopiperazine (1.0 g) in water (2.0 ml) and acetic acid (1.09 ml) was added zinc powder (745 mg) at 8-13° C. (exothermic reaction) with ice-water cooling bath. After removal of the bath, the temperature was raised till 55° C. and the reaction mixture was additionally stirred at 30-40° C. for 1 hour. Acetic acid (1.09 ml) and zinc powder (745 mg) was added to the reaction mixture and stirred at 40° for 1 hour. After cooling, zinc residue was filtered off and washed with methanol (5 ml) on the Celite. The combined filtrate was added into dichloromethane (10 ml) and sodium hydroxide (1.6 g) in water (5 ml) below 35° C. The resulting precipitate was filtered off with Celite and the residue was washed with dichloromethane (20 ml). The combined filtrate was dried over magnesium sulfate and filtered. The filtrate was condensed in vacuo to give 1-amino-4-benzyloxycarbonylhomopiperazine (690 mg). This product was used for next step without further purification.

reactant | 1-benzyloxycarbonyl-4-nitrosohomopiperazine | 1.0 g | C(C1=CC=CC=C1)OC(=O)N1CCN(CCC1)N=O | C13H17N3O3
solvent | water | 2.0 ml | O | H2O
solvent | acetic acid | 1.09 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 745 mg | [Zn] | Zn
product | 1-amino-4-benzyloxycarbonylhomopiperazine | 690 mg | NN1CCN(CCC1)C(=O)OCC1=CC=CC=C1 | C13H19N3O2
